US07745641B2
HOBT monohydrate (2.00 g, 13.1 mmol) was dissolved in DMF (20 mL), and the solution was added with triethylamine (2.54 mL, 18.2 mmol) and ethylchloroformate (1.24 mL, 13.0 mmol), followed by stirring at 0° C. for 3 hours. Then, the mixture was added with triethylamine (4.22 mL, 30.3 mmol) and 3,4-diaminobenzoic acid (1.86 g, 12.2 mmol), followed by stirring at the same temperature for 2 hours. The mixture was added with a solution of N-methylpiperazine (1.21 mL, 10.9 mmol) in DMF (20 mL), followed by further stirring for 30 minutes. The reaction mixture was added with water (2 mL) and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol/7 mol/L ammonia-methanol solution=50/0.5/0.5-7/0.5/0.5) and preparative thin-layer chromatography (chloroform/methanol/7 mol/L ammonia-methanol solution=4/0.5/0.5) to obtain (3,4-diaminophenyl)(4-methylpiperazin-1-yl)methanone (455 mg, yield 18%).

reactant | HOBT monohydrate | 13.1 mmol, 2.00 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | triethylamine | 18.2 mmol, 2.54 mL | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 13.0 mmol, 1.24 mL | C(C)OC(=O)Cl | C3H5ClO2
reactant | triethylamine | 30.3 mmol, 4.22 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4-diaminobenzoic acid | 12.2 mmol, 1.86 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | N-methylpiperazine | 10.9 mmol, 1.21 mL | CN1CCNCC1 | C5H12N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 2 mL | O | H2O
product | (3,4-diaminophenyl)(4-methylpiperazin-1-yl)methanone | 455 mg, yield 18% | NC=1C=C(C=CC1N)C(=O)N1CCN(CC1)C | C12H18N4O
